US08802659B2
1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-cyclopropyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid
Synthesized as per 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-trifluoromethyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid using 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-cyclopropyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid methyl ester as starting material. ESI-MS (M+H+): 437.3; 1H NMR (400 MHz, METHANOL-d4) Shift 7.97 (d, J=9.04 Hz, 1H), 7.70 (d, J=2.76 Hz, 1H), 7.41 (dd, J=2.64, 9.16 Hz, 1H), 7.08 (s, 1H), 4.71 (s, 2H), 4.36-4.59 (m, 5H), 3.70-3.86 (m, 1H), 2.38-2.51 (m, 1H), 2.30 (d, J=10.54 Hz, 2H), 1.85-1.99 (m, 2H), 1.37-1.53 (m, 2H), 1.19-1.34 (m, 4H), 1.05-1.19 (m, 1H), 0.92 (s, 9H), 0.81-0.89 (m, 2H).

reactant | 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-trifluoromethyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)CN1CC(C1)C(=O)O)C(F)(F)F | C25H31F3N2O3
reactant | 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-cyclopropyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C1)CC1=NC2=CC=C(C=C2C(=C1)C1CC1)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C28H38N2O3
product | 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-cyclopropyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)CN1CC(C1)C(=O)O)C1CC1 | C27H36N2O3
